US06069145
(5R)-3-(3-Fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyl-oxymethyl)oxazolidin-2-one (990 mg) was dissolved in dry DMF (30 ml), sodium azide (868 mg) was added, and the mixture heated at 80° C. for 4 hours. The mixture was evaporated to dryness, and the residue dissolved in ethyl acetate and washed with three portions of water. The aqueous layer was back-extracted with two portions of ethyl acetate, and the combined organic extracts dried over MgSO4. Evaporation gave (5R)-5-azidomethyl-3-(3-fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one (770 mg) which was used without further purification.

reactant | (5R)-3-(3-Fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyl-oxymethyl)oxazolidin-2-one | 990 mg | FC=1C=C(C=CC1N1CC(N(CC1)CCOC)=O)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C18H24FN3O7S
reactant | sodium azide | 868 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (5R)-5-azidomethyl-3-(3-fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one | 770 mg | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CC(N(CC1)CCOC)=O)F | C17H21FN6O4
